US07371748B2
Cydohexanecarboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide
Using 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine and cyclohexanecarboxylic acid, the title compound was prepared as white powder. MS: m/e=391 (M+H+).

reactant | 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)N)OC | C13H16N2O3S
reactant | cyclohexanecarboxylic acid | C1(CCCCC1)C(=O)O | C7H12O2
product | Cydohexanecarboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(=O)C2CCCCC2)OC | C20H26N2O4S
